US04652573
A. 2-(3-tolylsulfonyl)isoindoline
A solution of 34.2 g (0.2 mol) of p-toluenesulfonamide in 100 ml of dry N,N-dimethylformamide was added dropwise to a suspension of 18.9 g (0.42 mol) of sodium hydride (50% oil dispersion) in 60 ml of N,N-dimethylformamide. The reaction was stirred at room temperature for one hour, followed by one hour at 60° C. A solution of 52.8 g (0.2 mol) of α,α'-dibromo-0-xylene in 300 ml of N,N-dimethylformamide was added at such a rate that the temperature of the reaction mixture remained between 60°-70° C. After further stirring for 48 hours at room temperature under nitrogen ice water was added to the reaction mixture. The precipitated solid was filtered and recrystallized from hot ethanol. Yield 33.58 g, m.p. 175°-177° C. NMR (CDCl3) δ 2.32 (3H, s), 4.5 (4H,s), 7.25 (8H, m).

reactant | p-toluenesulfonamide | 0.2 mol, 34.2 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | 0.42 mol, 18.9 g | [H-].[Na+]
reactant | α,α'-dibromo-0-xylene | 0.2 mol, 52.8 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-(3-tolylsulfonyl)isoindoline | C1(=CC(=CC=C1)S(=O)(=O)N1CC2=CC=CC=C2C1)C | C15H15NO2S
